US08957068B2
A solution of (S)-tert-butyl 1-(4-bromo-3-fluorophenyl)ethylcarbamate (318 mg, 1 mmol) in dry THF (5 mL) was cooled to −78° C. BuLi (2.5 M, 840 μL, 2.1 mmol) was added dropwise and the resulting solution was stirred at −78° C. for 1 h. Then DMF (232 μL, 3.00 mmol) was added in one portion. The reaction was stirred for another 30 min at −78° C. then quenched with sat. NH4Cl solution. The reaction was stirred at room temperature for another 30 min then diluted with EtOAc, washed with water and brine. The separated organic was dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 0 to 80%) provided (S)-tert-butyl 1-(3-fluoro-4-formylphenyl)ethylcarbamate as a white solid (70 mg, 26.2% yield).

reactant | (S)-tert-butyl 1-(4-bromo-3-fluorophenyl)ethylcarbamate | 1 mmol, 318 mg | BrC1=C(C=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O)F | C13H17BrFNO2
reactant | BuLi | 2.1 mmol, 2.5 M, 840 μL | [Li]CCCC
reactant | DMF | 3.00 mmol, 232 μL | CN(C)C=O | C3H7NO
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(3-fluoro-4-formylphenyl)ethylcarbamate | 70 mg, 26.2% yield | FC=1C=C(C=CC1C=O)[C@H](C)NC(OC(C)(C)C)=O | C14H18FNO3
